US07238808B2
Step 1) 2,2-Dimethyl-6-(3,3,3-trifluoro-2,2-dihydroxy-propyl)-[1,3]dioxin-4-one
To a solution of hexamethyldisilazane (167 mL, 800 mmol) in THF (200 mL) at 0° C. was cannulated n-BuLi (500 mL, 800 mmol) and the mixture was stirred at 0° C. for 30 min, then cannulated into a solution of freshly distilled 2,2,6-trimethyl-1,3-dioxin-4-one (56.9 g, 400 mmol) in THF (400 mL) at −78° C., keeping the internal temperature below −60° C. Stirring was continued at −78° C. for 1 h, then a solution of ethyl 2,2,2-trifluoroacetate (52.5 mL, 440 mmol) in THF (100 mL) was added quickly (<1 min; internal temperature remained below −70° C.). The cooling bath was removed and stirring was continued at −78 to 0° C. for 2 h. Cooled to −45° C., then HOAc (57.3 mL, 1000 mmol) was added and the mixture was warmed to −10° C. Poured into ice cold 0.5 M HCl (pH 1), extracted with TBME, washed with sat. NaHCO3-sol., ice cold 0.5 M HCl and brine, dried over Na2SO4. Removal of the solvent in vacuum (bath temperature below 40° C.) left a yellow oil, added THF (ca. 200 mL), toluene (ca. 50 mL) and H2O (ca. 20 mL) and evaporated to dryness to give the title compound as a light yellow solid (89.27 g, 87%). MS (ISN) 237.0 [(M−H)−].

reactant | hexamethyldisilazane | 800 mmol, 167 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-BuLi | 800 mmol, 500 mL | [Li]CCCC
reactant | 2,2,6-trimethyl-1,3-dioxin-4-one | 400 mmol, 56.9 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | ethyl 2,2,2-trifluoroacetate | 440 mmol, 52.5 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | HOAc | 1000 mmol, 57.3 mL | CC(=O)O | C2H4O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-6-(3,3,3-trifluoro-2,2-dihydroxy-propyl)-[1,3]dioxin-4-one | 89.27 g, 87% | CC1(OC(=CC(O1)=O)CC(C(F)(F)F)(O)O)C | C9H11F3O5
